US05521180
The crude 2-(1-propenyloxymethyl)morpholine (32.7 g) was dissolved in an acetone-water (9:1) mixed solvent containing 2.0N hydrochloric acid, followed by heating under reflux for 4 hours. After completion of the reaction, the solvent was evaporated to obtain a crude alcohol compound (41.8 g) as a pale yellow oily substance. Triethylamine (145 ml) was added dropwise to a methylene chloride solution (300 ml) of the crude alcohol compound (41.8 g) under ice-cooling, and triphenylchloromethane (41.5 g, 0.208 mol) was added thereto at the same temperature, followed by stirring for 2 hours. After completion of the reaction, a saturated aqueous solution of sodium hydrogencarbonate (150 ml) was added to the reaction mixture, and the mixture was extracted with chloroform. The extract was dried over magnesium sulfate, the solvent evaporated, and the residue recrystallized from methylene chloride-hexane to give 2-hydroxymethyl-4-tritylmorpholine (48.0 g).

reactant | 2-(1-propenyloxymethyl)morpholine | 32.7 g | C(=CC)OCC1CNCCO1 | C8H15NO2
reactant | hydrochloric acid | 2.0N | Cl | ClH
reactant | triphenylchloromethane | 0.208 mol, 41.5 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | sodium hydrogencarbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | acetone water | CC(=O)C.O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 145 ml | C(C)N(CC)CC | C6H15N
product | 2-hydroxymethyl-4-tritylmorpholine | 48.0 g | OCC1CN(CCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25NO2
